US08445505B2
A mixture of 2,5-dichloro-N-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)pyrimidin-4-amine (202.7 mg, 0.62 mmol), tert-butyl-4-(4-aminonaphthalen-1-yl)piperidine-1-carboxylate (202.0 mg, 0.62 mmol), Xantophos (35.9 mg, 0.062 mmol), padallium acetate (II) (7.0 mg, 0.031 mmol), and cesium carbonate (40.3 mg, 0.12 mmol) in 5.0 mL of THF was heated at 150° C. in a microwave reactor for 25 min. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The crude product was dissolved in 5 mL of DCM and 4 mL of TFA. This reaction mixture was stirred at room temperature for 2 h followed by concentration in vacuo. The crude product is purified by RP-HPLC to afford 5-chloro-N4-(5-methyl-1H-pyrazol-3-yl)-N2-(4-(piperidin-4-yl)naphthalene-1-yl)pyrimidine-2,4-diamine; ESMS m/z 434.2 (M+H+)

reactant | 2,5-dichloro-N-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.62 mmol, 202.7 mg | ClC1=NC=C(C(=N1)NC1=NN(C(=C1)C)C1OCCCC1)Cl | C13H15Cl2N5O
reactant | tert-butyl-4-(4-aminonaphthalen-1-yl)piperidine-1-carboxylate | 0.62 mmol, 202.0 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C2=CC=CC=C12)N | C20H26N2O2
reactant | cesium carbonate | 0.12 mmol, 40.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.031 mmol, 7.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-chloro-N4-(5-methyl-1H-pyrazol-3-yl)-N2-(4-(piperidin-4-yl)naphthalene-1-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=CC=C(C2=CC=CC=C12)C1CCNCC1)NC1=NNC(=C1)C | C23H24ClN7
